US04350634
A mixture of 57 g trifluoroacetic acid and 105 g trifluoroacetic anhydride in 400 ml anhydrous acetonitrile are added dropwise to a stirred suspension of 95.1 g 3-(3-indolyl)propionic acid in 500 ml anhydrous acetonitrile and maintained with stirring at -15° for 30 minutes. Under good cooling 500 ml anhydrous pyridine are added between -20° and -15° and quickly 238 ml of a 4.2 N solution of anhydrous methylamine in acetonitrile. The mixture is warmed with stirring at 0° for 15 minutes and maintained to 0° for 3 hours. 3-(3-indolyl)-N-methyl-propionamide (M.pt 97°-98° after crystallization from methylene chloride/ethyl acetate) is obtained after working up.

reactant | trifluoroacetic acid | 57 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 105 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-(3-indolyl)propionic acid | 95.1 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | methylamine | CN | CH5N
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3-indolyl)-N-methyl-propionamide | N1C=C(C2=CC=CC=C12)CCC(=O)NC | C12H14N2O
